US04803215
A suspension of 28 g (0.065 mole) of 5-amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-trifluoromethylsulphonyl-pyrazole in 70 ml of bromoform are added to a solution of 15.5 ml (0.13 mole) of t-butyl nitrite in 30 ml of bromoform at 20° C. to 25° C. The temperature rises to 40° C. The mixture is then stirred for 15 hours at room temperature, 200 ml of dichloromethane are added, the mixture is washed in sequence with aqueous sodium hydrogen carbonate, sodium thiosulphate and sodium chloride solution, the organic phase is dried over magnesium sulphate and the solvent is removed in vacuo. The oil remaining is purified by chromatography (silica gel, eluent: dichloromethane). 13.8 g (43% of theory) of 5-bromo-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-trifluoromethylsulphonylpyrazole of melting point 90° C. to 91° C. are obtained.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-trifluoromethylsulphonyl-pyrazole | 0.065 mole, 28 g | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)S(=O)(=O)C(F)(F)F | C11H5Cl2F6N3O2S
reactant | t-butyl nitrite | 0.13 mole, 15.5 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | bromoform | 70 ml | C(Br)(Br)Br | CHBr3
reactant | bromoform | 30 ml | C(Br)(Br)Br | CHBr3
product | 5-bromo-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-trifluoromethylsulphonylpyrazole | 13.8 g, 43% | BrC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)S(=O)(=O)C(F)(F)F | C11H3BrCl2F6N2O2S
